US07309718B2
(e) Methyl 6-[2-(4-bromophenyl)ethenyl]-2-chlorobenzoate
To a mixture of. 44.6 g (84.9 mmol) of 3-chloro-2-methoxycarbonylbenzyltriphenylphosphonium bromide and 16.7 g (90.4 mmol) of 4-bromobenzaldehyde was added 150 ml of acetonitrile, and then, 14.8 g (119 mmol) of 1,5-diazabicyclo[4,3,0]-5-nonene was added dropwise to the mixture. Thereafter, the mixture was refluxed for 3 hours.

reactant | 3-chloro-2-methoxycarbonylbenzyltriphenylphosphonium bromide | 84.9 mmol, 44.6 g | [Br-].ClC=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)C(=O)OC
reactant | 4-bromobenzaldehyde | 90.4 mmol, 16.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1,5-diazabicyclo[4,3,0]-5-nonene | 119 mmol, 14.8 g | C1CC2=NCCCN2C1 | C7H12N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Methyl 6-[2-(4-bromophenyl)ethenyl]-2-chlorobenzoate | BrC1=CC=C(C=C1)C=CC1=CC=CC(=C1C(=O)OC)Cl | C16H12BrClO2
